US08404679B2
N-[(3RS,4SR)-1-(1-Cyclopropylmethyl-piperidine-4-carbonyl)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-2-(2,3-difluoro-phenyl)-N-methyl-acetamide
In analogy to the procedure described for the synthesis of example 87 (step c), the title compound N-[(3RS,4SR)-1-(1-cyclopropylmethyl-piperidine-4-carbonyl)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-2-(2,3-difluoro-phenyl)-N-methyl-acetamide was prepared from (1-cyclopropylmethyl-piperidin-4-yl)-[(3SR,4RS)-3-(3,4-dichloro-phenyl)-4-methylamino-pyrrolidin-1-yl]-methanone instead of N-[(3RS,4SR)-4-(4-chloro-phenyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide using 2,3-difluorophenylacetic acid instead of 1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carboxylic acid and was obtained as a colorless semi-solid. MS m/e: 564.4 [M]+.

reactant | (1-cyclopropylmethyl-piperidin-4-yl)-[(3SR,4RS)-3-(3,4-dichloro-phenyl)-4-methylamino-pyrrolidin-1-yl]-methanone | C1(CC1)CN1CCC(CC1)C(=O)N1CC(C(C1)NC)C1=CC(=C(C=C1)Cl)Cl | C21H29Cl2N3O
reactant | 2,3-difluorophenylacetic acid | FC1=C(C=CC=C1F)CC(=O)O | C8H6F2O2
product | N-[(3RS,4SR)-1-(1-cyclopropylmethyl-piperidine-4-carbonyl)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-2-(2,3-difluoro-phenyl)-N-methyl-acetamide | C1(CC1)CN1CCC(CC1)C(=O)N1CC(C(C1)C1=CC(=C(C=C1)Cl)Cl)N(C(CC1=C(C(=CC=C1)F)F)=O)C | C29H33Cl2F2N3O2
